Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Laparoscopic Cholecystectomy

 
History of Present Illness:
Briefly this is a ___ w/h/o cholelithiasis presents with 1 day 
history of sharp abdominal pain radiating to her back, most 
prominent in LUQ and RUQ. The patient reports that the pain 
occurred suddenly yesterday, and has not improved. The pain feel 
similar to the pain she had in the past when she passed a 
gallstone, but she states that this time the pain is worse. Of 
note, she had an abdominal ultrasound ___ which revealed 
multiple gallstones and dilated extrahepatic biliary system, 
LFT's at that time were found to be 645, 396, AP 244, Tbili 4.4. 
She also underwent an ERCP on ___n biliary 
stent was placed and cytology brushings were obtained (which 
were negative for malignancy). The patient reports that her 
LFT's have been persistently elevated and she is followed by 
hepatology here and recently started on ursodiol, and has done 
an extensive workup for other pathologies which include 
infectious and autoimmune causes for hepatitis, all of which are 
negative. She reports that the plan has been to undergo interval 
cholecystectomy once her LFT's have come down.  
 
Patient was given 8mg iv morphine, 1mg iv dilaudid, and 
ondansetron. Surgery was consulted and recommended ERCP to 
evaluate stent, admission to medicine with hepatology consult, 
HIDA scan, and pain control. On admission to the floor she was 
started on cipro/flagyl for cholangitis with IV diluaid and prn 
oxycodone for pain control with intermittent fevers and chills, 
no nausea vomitting, and abdominal pain relatively well 
controlled. The morning of transfer she became hypotensive to 
___. She received 2L NS and BPs inital improved to SBP in 
100s. Her BP started to down trend to the ___ and she was 
bolused another 2L NS transitoned to IV Unasyn and transferred 
to the FICU for further monitoring.

On arrival to the MICU the patietn spiked to 101.2 Her abdominal 
pain ___ but tolerable. No nausea or vomitting. 

 
Review of Systems:  
(+) abdominal pain, nausea, vomiting  
(-) no melena diarrhea no chest pain and no SOB.  
 
Past Medical History:
Past Medical History:  
-chronic fatigue syndrome  
-cholelithiasis  
-allergic rhinitis  
-s/p tonsillectomy  
-left renal cyst  
-hepatic angioma  
PSH: tonsillectomy 
 
Social History:
___
Family History:
mother: COPD, lung cancer, gallstones  
-father: hypertension, ___ dementia, colon polyps  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals- 98.8 - 134/___ ___ pain
General- Alert, oriented, no acute distress, slightly jaundiced 
esp on trunk, lying on back, comfortable
HEENT- Sclera anicteric, mm dry
Neck- supple
Lungs- CTA bilaterally
CV- RR no m/r/g
Abdomen- soft, no rebound, midepigastric tenderness and ruq 
tenderness of mod-deep palpation, no ___ sign, no 
organomegaly
GU- no foley
Ext- no pedal edema
Neuro- CNs3-12 intact, speech is fluent, linear, appropriate, 
conversant, oriented x3, moves all 4 extremities against gravity
 
Pertinent Results:
ADMISSION LABS

___ 11:40AM BLOOD WBC-9.6# RBC-5.40 Hgb-15.5 Hct-45.3 
MCV-84 MCH-28.6 MCHC-34.1 RDW-12.9 Plt ___
___ 01:38PM BLOOD ___ PTT-33.5 ___
___ 11:40AM BLOOD Glucose-110* UreaN-10 Creat-0.8 Na-139 
K-3.8 Cl-101 HCO3-30 AnGap-12
___ 11:40AM BLOOD ALT-84* AST-75* AlkPhos-155* TotBili-2.1*
___ 08:10AM BLOOD Albumin-3.0* Calcium-8.5 Phos-3.2 Mg-1.5*

IMAGING
RUQ ULTRASOUND
1. Distended gallbladder with sludge and stones, including stone 
at the
gallbladder neck/cystic duct, early acute cholecystitis not 
excluded.
 
2. Dilated proximal common bile duct and common hepatic duct in 
the presence
of a common bile duct stent, raising concern for stent 
malfunction.

ERCP
Plastic stent in the major papilla. removed with snare and sent 
for cytology
Evidence of a previous sphincterotomy
The proximal CBD was 12mm in size.
Tapering of the distal CBD was seen near the ampulla. It was not 
possible to determine if this was a distal CBD stricture or the 
intraampullary segment of the CBD. Poor drainage of contrast 
from the distal CBD
No filling defects seen  Balloon sweeps did not yield sludge or 
stone
Cytology samples were obtained using a brush in the distal CBD
Given concern for distal CBD stricture, poor drainage of 
contrast and presentation with cholangitis, a ___ x 7cm plastic 
stent was placed in the CBD
Free flow fo bile noted after stent placement
(stent removal, cytology, stent placement)
Otherwise normal ercp to third part of the duodenum
 
Brief Hospital Course:
Ms. ___ is a ___ year old lady with history of 
choledocholithiasis and transaminitis who presents evidence of 
cholecystitis and choledocholitihais, ___ transferred to 
FICU with sepsis

#Severe Sepsis-The patient was transferred to the ICU with 
severe sepsis meeting   ___ SIRS criteria ( leukocytosis and 
fever) + suspected biliary source with hypotension. She was 
adequately resusciated s/p 4L IVFs. Her pressures remained 
stable the duration of her hospital course, with management of 
her cholangitis below

 
-

# choledocholithiais/cholecystisis/cholangitis-The patient had  
evidence of stones in CBD an evidence cholecystitis on RUQ 
ultrasound. new leukocytosis and fevers also concerning for 
cholangitis, also with malposition of CBD stent on ultrasound. 
She underwent ERCP with removal of malpositoned stent and a new 
stent was placed. A stricture was seen on ERCP that was unable 
to be dilated, however brushingings were taken for cytology. No 
stones were visualized on ERCP or pus. ERCP subsquently 
recommend CCY this admission. She underwennt CCY and was 
transferred to ACS from the ICU post op. She was continued on 
Unasyn.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 300 mg PO TID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
every six (6) hours Disp #*40 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
3. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0
4. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___